US07026352B1
(8E,12E,14E)-7-Acetoxy-3-t-butyldimethylsiloxy-21-ethoxyacetoxy-6-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
Ethoxyacetic acid (23 mg, 0.22 mmol), dicyclohexylcarbodiimide (55 mg, 0.27 mmol) and dimethylaminopyridine (5.4 mg, 0.27 mmol) were added to a solution of (8E,12E,14E)-7-acetoxy-3-t-butyldimethylsiloxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (29 mg, 0.044 mmol) in dichloromethane (3 mL) at room temperature. The mixture was stirred at room temperature for 4 hours. The reaction mixture was diluted with ethyl acetate, and filtered through Celite. The filtrate was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by silica gel column chromatography (Kanto silica gel 60N, spherical, neutral, 40 to 100 μm, eluate; hexane:ethyl acetate=70:30) to obtain the title compound (28 mg, 85%) as a colorless oil.

reactant | Ethoxyacetic acid | 0.22 mmol, 23 mg | C(C)OCC(=O)O | C4H8O3
reactant | dicyclohexylcarbodiimide | 0.27 mmol, 55 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 0.27 mmol, 5.4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | (8E,12E,14E)-7-acetoxy-3-t-butyldimethylsiloxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.044 mmol, 29 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)O[Si](C)(C)C(C)(C)C)(C)O | C36H62O8Si
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-3-t-butyldimethylsiloxy-21-ethoxyacetoxy-6-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 28 mg, 85% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(COCC)=O)C)O1)C)\C)O[Si](C)(C)C(C)(C)C)(C)O | C40H68O10Si
